US07932271B2
2-[(t-Butoxycarbonyloxy)-(2,5-difluorophenyl)methyl]-1-methyl-5-chloro-1H-imidazole
An acetonitrile (6 ml) solution of 2,5-difluorobenzaldehyde (327 μl, 3 mmol), 5-chloro-1-methylimidazole (187 μg, 2 mmol) and di-t-butyl dicarbonate (504 μl, 2.2 mmol) was stirred at room temperature for 20 hours. The precipitate thus formed was collected by filtration, followed by trituration with hexane to give the title compound (472 mg, 66%) as a white solid.

reactant | 2,5-difluorobenzaldehyde | 3 mmol, 327 μl | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | 5-chloro-1-methylimidazole | 2 mmol, 187 μg | ClC1=CN=CN1C | C4H5ClN2
reactant | di-t-butyl dicarbonate | 2.2 mmol, 504 μl | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 2-[(t-Butoxycarbonyloxy)-(2,5-difluorophenyl)methyl]-1-methyl-5-chloro-1H-imidazole | 472 mg, 66% | C(C)(C)(C)OC(=O)OC(C=1N(C(=CN1)Cl)C)C1=C(C=CC(=C1)F)F | C16H17ClF2N2O3
